US09282743B2
Preparation of 8-(2-Ethyl-4,6-dimethyl-phenyl)-3-methoxy-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (compound P2.14)
To a solution of 2-[2-(2-ethyl-4,6-dimethyl-phenyl)-acetyl]-5-methoxy-[1,2,5]triazepane-1-carboxylic acid ethyl ester (550 mg, 1.46 mmol) in absolute dimethylformamide (5 ml) at 80° C. was added sodium methoxide (240 mg, 4.44 mmol) in one portion and stirring continued at 80° C. for 20 minutes. The cooled reaction mixture was poured on ice, the aqueous alkaline phase was acidified to pH 5 by addition of a 6N HCl solution, the resulting suspension was filtered, the obtained solid dissolved in dichloromethane, the organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica gel (ethyl acetate/methanol 20:1). Yield: 220 mg of 8-(2-ethyl-4,6-dimethyl-phenyl)-3-methoxy-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (compound P2.14) as a pale brown solid, mp 213-215° C.

reactant | 2-[2-(2-ethyl-4,6-dimethyl-phenyl)-acetyl]-5-methoxy-[1,2,5]triazepane-1-carboxylic acid ethyl ester | 1.46 mmol, 550 mg | C(C)OC(=O)N1N(CCN(CC1)OC)C(CC1=C(C=C(C=C1C)C)CC)=O | C20H31N3O4
reactant | sodium methoxide | 4.44 mmol, 240 mg | C[O-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 8-(2-Ethyl-4,6-dimethyl-phenyl)-3-methoxy-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione | C(C)C1=C(C(=CC(=C1)C)C)C1C(N2N(CCN(CC2)OC)C1=O)=O | C18H25N3O3
